US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(2,2-dimethyl-pentyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2,2-dimethylpentanol according to the procedure of Example 1 as an off-white solid; 1H NMR(DMSO-d6,400 MHz) 0.8 (m, 18H, 6×CH3), 1.1-1.2 (m, 11H, CH2CH3), 2.6 (m, 1H, CH), 3-3.3 (m, 3H, CH, CH2), 3.4 (brs, 1H, CH), 4.0 (s, 4H, OCH2, OCH2), 5.09 (m, 1H, CH), 6.36 (d, J=4.17 Hz, 1H, OH), 6.86 (dd, J=7.9, 1.32 Hz, 1H, Ar--H), 7.07 (s 1H, Ar--H), 7.09 (d, J=8.35 Hz, Ar--H), 7.35-7.42 (m, 3H, Ar--H), 7.48 (s, 1H, Ar--H), 9.84 (brs, 1H, NH), 9.48 (brs, 1H, NH); IR (KBr, cm-1) 3300 (OH), 2900 (NH), 1760 (CO); MS m/e 617 (M+); Analysis for: C34H48ClNO7 ×HCl: Calc'd: C, 62.38; H, 7.55; N, 2.14; Found: C, 62.47; H, 7.51; N, 2.31.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2,2-dimethylpentanol | CC(CO)(CCC)C | C7H16O
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(2,2-dimethyl-pentyl) ester | CC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(CCC)(C)C)(CCC)C | C34H48ClNO7
